US03987091
Step 1. Preparation of 1-Chloro-4-nonanone
To the Grignard reagent prepared from a mixture of amyl bromide (226.59 g.; 1.5 moles) and magnesium (36.48 g.; 1.5 moles) in ether (1000 ml.) is added, dropwise, during one hour, 4-chlorobutyronitrile (155.34 g.; 1.5 moles). Stirring is continued for an additional one hour. The reaction mixture is poured into a mixture of finely crushed ice (1000 g.) and concentrated hydrochloric acid (750 ml.). The ether layer is separated quickly and discarded. The aqueous layer is heated on a steam bath for one hour to hydrolyze the intermediate imine and cause the separation of the ketone as an oil. After cooling, the oil is extracted with ether and the combined extracts are washed with saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent is removed under vacuum and the residual oil is distilled to give 69.0 g. (26%) of colorless oil, b.p. 115°-117°/14 mm.; pmr (CDCl3) δ 0.90 (3H,t), 3.56 (2H,t,CH2Cl).

reactant | amyl bromide | 1.5 moles, 226.59 g | C(CCCC)Br | C5H11Br
reactant | magnesium | 1.5 moles, 36.48 g | [Mg] | Mg
reactant | 4-chlorobutyronitrile | 1.5 moles, 155.34 g | ClCCCC#N | C4H6ClN
reactant | hydrochloric acid | 750 ml | Cl | ClH
reactant | ether | 1000 ml | CCOCC | C4H10O
product | 1-Chloro-4-nonanone | ClCCCC(CCCCC)=O | C9H17ClO
